US07453010B2
A solution of 1.4 g of trans-4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(tert-butoxycarbonyl)(methylsulfonyl)amino]phenoxy)-2-hydroxy-propyl)amino]cyclohexyl}phenyl trifluoromethanesulfonate (1.62 mmol) in a mixture of trifluoroacetic acid (5 ml) and of dichloromethane (45 mol) is stirred for 3 h 20. The solvents are evaporated under reduced pressure and then water, ethyl acetate and an aqueous ammonium solution are added. The organic phase is washed once with water and dried over sodium sulfate. trans-4-{4-[Benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}phenyl trifluoromethanesulfonate is obtained in the form of an oil (1.27 g, 98%) after evaporation of the solvents under reduced pressure. [M+H+]=763.5.

reactant | trans-4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(tert-butoxycarbonyl)(methylsulfonyl)amino]phenoxy)-2-hydroxy-propyl)amino]cyclohexyl}phenyl trifluoromethanesulfonate | 1.62 mmol, 1.4 g | FC(S(=O)(=O)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N(C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)N(S(=O)(=O)C)C(=O)OC(C)(C)C)O)CC1=CC=CC=C1)(F)F | C42H49F3N2O10S2
reactant | dichloromethane | 45 mol | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | trans-4-{4-[Benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N(C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O)CC1=CC=CC=C1)(F)F | C37H41F3N2O8S2
